US06864265B2
To a solution of (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-azide (0.33 g, 1.6 mmol) in MEOH (16 mL) was added palladium on activated carbon, (10%, 50 mg) and the reaction mixture stirred under 1 atmosphere of hydrogen for 4 h. The mixture was filtered through celite, the cake washed with methanol and the solvent from the eluent removed in vacuo to give crude (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-amine as a yellow oil (0.28 g, 96%). 1H NMR (CDCl3) δ1.75 (m, 2H), 1.97 (m, 1H), 2.17 (m, 1H), 2.77 (m, 2H), 3.81 (s, 3H), 3.98 (t, 1H, J=4.5 Hz), 6.88 (d, 1H, J=1.5 Hz), 8.12 (d, 1H, J=1.5 Hz).

reactant | (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-azide | 1.6 mmol, 0.33 g | COC=1C=NC=2C(CCCC2C1)N=[N+]=[N-] | C10H12N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | (3-methoxy-5,6,7,8-tetrahydroquinolin-8-yl)-amine | 0.28 g, 96% | COC=1C=NC=2C(CCCC2C1)N | C10H14N2O
